US08383629B2
2-(trifluoromethyl)benzyl 7-bromo-3-oxo-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-carboxylate
To o-(trifluoromethyl)benzyl alcohol (35 mg, 0.20 mmol) in CH2Cl2 (4 mL) was added was a solution of carbonyl diimidazole (29 mg, 0.18 mmol) in CH2Cl2 (4 mL). The mixture was stirred at rt for 2 h. A 1-mL aliquot of the resulting solution (0.05 mmol) was added to a solution 7-bromospiro[indene-1,4′-piperidin]-3(2H)-one (14.5 mg, 0.05 mmol) in CH2Cl2 (1 mL). The mixture was stirred at rt for 16 h, concentrated, redissolved in MeCN (1 mL) and heated at 60° C. for 2 h. Prep HPLC afforded the title compound. LC-MS Method 1 tR=2.06, min, m/z=484, 482.

reactant | o-(trifluoromethyl)benzyl alcohol | 0.20 mmol, 35 mg | FC(C1=C(CO)C=CC=C1)(F)F | C8H7F3O
reactant | carbonyl diimidazole | 0.18 mmol, 29 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 7-bromospiro[indene-1,4′-piperidin]-3(2H)-one | 0.05 mmol, 14.5 mg | BrC=1C=CC=C2C(CC3(CCNCC3)C12)=O | C13H14BrNO
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(trifluoromethyl)benzyl 7-bromo-3-oxo-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-carboxylate | BrC=1C=CC=C2C(CC3(CCN(CC3)C(=O)OCC3=C(C=CC=C3)C(F)(F)F)C12)=O | C22H19BrF3NO3
